US06537998B1
Step 2C 6-Ethoxycarbonyl-2-(tert-butyl)-4-(2-fluorobenzyl)pyrrolo[1,2-a]pyrimid-7-one
To 6-ethoxycarbonyl-2-(tert-butyl)-4H-pyrrolo[1,2-a]pyrimid-7-one (0.5 g, 1.9 mmol.) in DME (5 ml), tetrabutylammonium fluoride (4 ml, 4.0M in THF) was added, and a white foamy material formed. 2-Fluorobenzyl bromide (0.38 ml, 3 mmol.) was added and the mixture was stirred at room temperature for 2 days. Concentration of the reaction mixture in vacuo produced an oil, which was dissolved in acetone (20 ml) and diluted with water until the solution turned a slight cloudy. Partially concentration to remove acetone by nitrogen flow resulting precipitation. The precipitates were collected by filtration and washed with water (20 ml×2), ether (20 ml×3) and dried. The desired product (0.57 g) was obtained with excellent purity; MS: 371 (M+H)+, 325; NMR (CDCl3, δ): 8.29 (1H, s), 7.43-7.14(5H, 2m), 5.99 (1H, s) 5.18 (2H,s ), 4.35 (2H, q), 1.37(3H, s), 1.26 (9H, s).

reactant | 6-ethoxycarbonyl-2-(tert-butyl)-4H-pyrrolo[1,2-a]pyrimid-7-one | 1.9 mmol, 0.5 g | C(C)OC(=O)C1C(C=C2N1CCC(=N2)C(C)(C)C)=O | C14H20N2O3
reactant | 2-Fluorobenzyl bromide | 3 mmol, 0.38 ml | FC1=C(CBr)C=CC=C1 | C7H6BrF
solvent | DME | 5 ml | COCCOC | C4H10O2
solvent | tetrabutylammonium fluoride | 4.0M, 4 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 6-Ethoxycarbonyl-2-(tert-butyl)-4-(2-fluorobenzyl)pyrrolo[1,2-a]pyrimid-7-one | 0.57 g | C(C)OC(=O)C1C(C=C2N1C(=CC(=N2)C(C)(C)C)CC2=C(C=CC=C2)F)=O | C21H23FN2O3
